US04242518
1.59 parts of 3-methoxy-dihydrothiophene-4-carboxylic acid amide are reacted with 0.88 part by volume of sulfuryl chloride in 25 parts by volume of carbon tetrachloride in the course of 2 hours at 0° C. The end product is isolated from the reaction mixture by the method described in Example 1c. 1.17 parts (75% of theory) of 3-methoxythiophene-4-carboxylic acid amide are obtained.

reactant | 3-methoxy-dihydrothiophene-4-carboxylic acid amide | COC1CSC=C1C(=O)N | C6H9NO2S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-methoxythiophene-4-carboxylic acid amide | 75% | COC1=CSC=C1C(=O)N | C6H7NO2S
